US06452041B1
(E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1 ′-biphenyl-4-yl)-2-pentenoic Acid Adamantanamine Salt
A solution of potassium phosphate tribasic (160 g, 0.762 moles) in demineralised water (500 ml) was added over 15 minutes to a stirred slurry of sodium 1 -hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate (125 g, 0.381 moles) in toluene (1500 ml) and demineralised water (1000 ml). The mixture was stirred at 20-25° C. for 16 hours. The organic phase was separated and the aqueous phase was extracted with toluene (100 ml). The combined organic extracts were washed with demineralised water (1000 ml), and the solution was azeotropically dried by distillation of toluene at 40° C. under reduced pressure. The volume of solution was reduced to 250 ml, and allowed to cool to 20-25° C. Meanwhile, 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester (112 g, 0.360 moles) was added portionwise over 10 minutes to a solution of sodium tert-butoxide (114 g, 1.175 moles) in toluene (1120 ml) at −10° C. under nitrogen. The mixture was stirred for 30 minutes at −10° C. The toluene solution prepared previously was added over 45 minutes between −10° C. and 0° C. The mixture was stirred at −10° C. for 1 hour and aqueous citric acid solution (10% w/v, 1000 ml) was added. The biphasic mixture was stirred at 20-25° C. for 16 hours. The organic phase was separated and washed with demineralised water (1000 ml) . The organic phase was azeotropically dried by distillation at 40° C. under reduced pressure at a constant volume of 1330 ml. The solution was maintained at 40-45° C., and a solution of adamantanamine (53 g, 0.350 moles) in toluene (665 ml) was added in one portion. The mixture was cooled to 20-25° C., and was stirred for 16 hours. The precipitate was collected by filtration, washed with toluene (150 ml) and dried in vacuo at 50° C. to leave the title compound as a colourless solid (153 g, 76% yield).

reactant | potassium phosphate tribasic | 0.762 moles, 160 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium 1 -hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate | 0.381 moles, 125 g | OC(CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)S(=O)(=O)[O-].[Na+]
reactant | 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester | 0.360 moles, 112 g | C(C)(C)(C)OC(CC(C(=O)O)P(=O)(OCC)OCC)=O | C12H23O7P
reactant | sodium tert-butoxide | 1.175 moles, 114 g | CC(C)([O-])C.[Na+]
reactant | citric acid | 1000 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | adamantanamine | 0.350 moles, 53 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | water | 500 ml | O | H2O
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1000 ml | O | H2O
solvent | toluene | 1120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 665 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1 ′-biphenyl-4-yl)-2-pentenoic Acid Adamantanamine Salt | 153 g, 76% yield | C12(CC3CC(CC(C1)C3)C2)N.C(C)(C)(C)OC(C/C(/C(=O)O)=C\CCC2=CC(=C(C=C2)C2=CC=CC=C2)C)=O | InChI=1S/C24H28O4.C10H17N/c1-17-15-18(13-14-21(17)19-10-6-5-7-11-19)9-8-12-20(23(26)27)16-22(25)28-24(2,3)4;11-10-4-7-1-8(5-10)3-9(2-7)6-10/h5-7,10-15H,8-9,16H2,1-4H3,(H,26,27);7-9H,1-6,11H2/b20-12+;
